US07557213B2
Preparation of 1-(3-Chloro-benzyl)-3-(4-methoxy-benzoyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 300 mg (0.84 mmol) of 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 3 mL THF and 3.7 mL 0.5M 4-methoxyphenylmagnesium bromide. Yield: 168 mg of a white solid. LC-MSD, m/z for C24H18ClNO3 [M+H]+=404.1, 406.0; HPLC retention time: 2.4 min.

reactant | 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.84 mmol, 300 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=CC(=CC=C1)Cl)C | C19H17ClN2O3
reactant | 4-methoxyphenylmagnesium bromide | 0.5M, 3.7 mL | COC1=CC=C(C=C1)[Mg]Br
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(3-Chloro-benzyl)-3-(4-methoxy-benzoyl)-1H-quinolin-4-one | ClC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(C2=CC=C(C=C2)OC)=O)C=CC1 | C24H18ClNO3
